US08541589B2
A mixture of 4-chloro-5-bromopyrimidine (193 mg, 1 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-naphthonitrile (279 mg, 1 mmol) palladium tetrakis triphenylphoshine (0.023 g, 0.02 mmol) and aqueous sodium carbonate solution (2M, 1.5 mL, 3 mmol) in dioxane (3 mL) was heated to 80° C. for 12 hours. The reaction mixture cooled to room temperature, washed with water, extracted with ethyl acetate and purified by chromatography to yield 4-(5-bromopyrimidin-4-yl)-1-naphthonitrile (214 mg, 69%).

reactant | 4-chloro-5-bromopyrimidine | 1 mmol, 193 mg | ClC1=NC=NC=C1Br | C4H2BrClN2
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-naphthonitrile | 1 mmol, 279 mg | CC1(OB(OC1(C)C)C1=CC=C(C2=CC=CC=C12)C#N)C | C17H18BNO2
reactant | sodium carbonate | 3 mmol, 2M, 1.5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 4-(5-bromopyrimidin-4-yl)-1-naphthonitrile | 214 mg, 69% | BrC=1C(=NC=NC1)C1=CC=C(C2=CC=CC=C12)C#N | C15H8BrN3
